US08431575B2
To a solution of 4-({[6-butyl-5-(4-cyclohexyloxy-phenyl)-pyridazine-3-carbonyl]-amino}-methyl)-3,6-dihydro-2H-pyridine-1-carboxylic acid tert-butyl ester (70 mg) in DCM (2 mL) was added 4 N HCl in dioxane (1.0 mL) at 0° C., and the reaction was stirred for 1 h at room temperature. The volatiles were removed under reduced pressure, and the residue was triturated with anhydrous ethyl ether and dried under high vacuum to provide 6-butyl-5-(4-cyclohexyloxy-phenyl)-pyridazine-3-carboxylic acid (1,2,3,6-tetrahydro-pyridin-4-ylmethyl)-amide dihydrochloride.

reactant | 4-({[6-butyl-5-(4-cyclohexyloxy-phenyl)-pyridazine-3-carbonyl]-amino}-methyl)-3,6-dihydro-2H-pyridine-1-carboxylic acid tert-butyl ester | 70 mg | C(C)(C)(C)OC(=O)N1CCC(=CC1)CNC(=O)C=1N=NC(=C(C1)C1=CC=C(C=C1)OC1CCCCC1)CCCC | C32H44N4O4
reactant | HCl | 4 N | Cl | ClH
solvent | DCM | 2 mL | C(Cl)Cl | CH2Cl2
solvent | dioxane | 1.0 mL | O1CCOCC1 | C4H8O2
product | 6-butyl-5-(4-cyclohexyloxy-phenyl)-pyridazine-3-carboxylic acid (1,2,3,6-tetrahydro-pyridin-4-ylmethyl)-amide dihydrochloride | Cl.Cl.N1CCC(=CC1)CNC(=O)C=1N=NC(=C(C1)C1=CC=C(C=C1)OC1CCCCC1)CCCC | InChI=1S/C27H36N4O2.2ClH/c1-2-3-9-25-24(21-10-12-23(13-11-21)33-22-7-5-4-6-8-22)18-26(31-30-25)27(32)29-19-20-14-16-28-17-15-20;;/h10-14,18,22,28H,2-9,15-17,19H2,1H3,(H,29,32);2*1H
